US08877742B2
4-chloro-3-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 4-chloro-6-methyl-1H-pyrrolo[2,3-b]pyridine (4.06 g, 24.37 mmol) in DCM (80 mL) at 0° C., was added NIS (6.22 g, 27.6 mmol). The reaction mixture was then warmed to RT and stirred for 18 hours. The reaction mixture was then filtered (washed with excess DCM) to give the title compound (4.01 g). LCMS (A): m/z (M+H)+ 293, C8H6ClIN2 requires 292 (acidic).

reactant | 4-chloro-6-methyl-1H-pyrrolo[2,3-b]pyridine | 24.37 mmol, 4.06 g | ClC1=C2C(=NC(=C1)C)NC=C2 | C8H7ClN2
reactant | NIS | 27.6 mmol, 6.22 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine | 4.01 g | ClC1=C2C(=NC(=C1)C)NC=C2I | C8H6ClIN2
